US04505912
n-Butyl 2-(2-dimethylamino-ethyl)-5-(4-chlorophenylamino)-2H-1,2,3-triazole-4-carboxylate hydrochloride
A mixture consisting of 6.0 gm (0.02 mol) of n-butyl 1-(4-chlorophenyl)-5-amino-1H-1,2,3-triazole-4-carboxylate, 100 ml of absolute dimethylformamide and 4.3 gm (0.04 mol) of 1-chloro-2-dimethylamino-ethane was reacted as in Example 1, the reaction mixture was evaporated, the residue was dissolved in 2N hydrochloric acid and water, and the solution was extracted with ether at stepwisely increasing pH values. After evaporation of those ether phases shown to be pure by thin-layer chromatography, the residue was dissolved in a little isopropanol, the solution was acidified with ethereal hydrochloric acid, and the hydrochloride was precipitated with ethyl acetate. After recrystallization from ethanol, 0.8 gm of the desired compound, corresponding to 9.9% of theory, was obtained with a melting point of 171° C.

reactant | n-butyl 1-(4-chlorophenyl)-5-amino-1H-1,2,3-triazole-4-carboxylate | 0.02 mol, 6.0 gm | ClC1=CC=C(C=C1)N1N=NC(=C1N)C(=O)OCCCC | C13H15ClN4O2
reactant | 1-chloro-2-dimethylamino-ethane | 0.04 mol, 4.3 gm | ClCCN(C)C | C4H10ClN
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | n-Butyl 2-(2-dimethylamino-ethyl)-5-(4-chlorophenylamino)-2H-1,2,3-triazole-4-carboxylate hydrochloride | Cl.CN(CCN1N=C(C(=N1)C(=O)OCCCC)NC1=CC=C(C=C1)Cl)C | InChI=1S/C17H24ClN5O2.ClH/c1-4-5-12-25-17(24)15-16(19-14-8-6-13(18)7-9-14)21-23(20-15)11-10-22(2)3;/h6-9H,4-5,10-12H2,1-3H3,(H,19,21);1H
